US04009208
A mixture containing 29.9 g. of 4-allyloxybenzoic acid and 250 ml. of thionyl chloride was stirred and refluxed for 90 minutes and the excess thionyl distilled off, first at atmospheric pressure and then at reduced pressure. Ethylene dichloride was added and the solution evaporated in vacuo to remove the ethylene dichloride and remaining traces of thionyl chloride to give a quantitative yield of 4-allyloxybenzoyl chloride.

reactant | 4-allyloxybenzoic acid | C(C=C)OC1=CC=C(C(=O)O)C=C1 | C10H10O3
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
product | 4-allyloxybenzoyl chloride | quantitative yield | C(C=C)OC1=CC=C(C(=O)Cl)C=C1 | C10H9ClO2
